US06855715B1
To a solution of N-(2,2-dimethoxyethyl)-N-methanesulphonyl-4-fluoro-3-methoxyaniline (1.91 g, 0.65 mmol) in dry toluene at 0° C. under argon, was added slowly a solution of TiCl4 (0.173 g, 0.911 mmol) in dry toluene (10 ml). The solution was then heated to 70° C. for 1 h. cooled and poured onto ice/sat. sod. bicarbonate solution (20 ml). The organic layer was separated, washed with sat. sod. bicarbonate solution, 0.5% hydrochloric acid (2×20 ml) and water (2×20 ml). The solution was dried (MgSO4) and evaporated in vacuo to give 5-fluoro-1-methanesulphonyl-6-methoxyindole ((0.102 g)

reactant | N-(2,2-dimethoxyethyl)-N-methanesulphonyl-4-fluoro-3-methoxyaniline | 0.65 mmol, 1.91 g | COC(CN(C1=CC(=C(C=C1)F)OC)S(=O)(=O)C)OC | C12H18FNO5S
reactant | bicarbonate | 20 ml | C([O-])(O)=O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
catalyst | TiCl4 | 0.911 mmol, 0.173 g | Cl[Ti](Cl)(Cl)Cl
product | 5-fluoro-1-methanesulphonyl-6-methoxyindole | FC=1C=C2C=CN(C2=CC1OC)S(=O)(=O)C | C10H10FNO3S
